US08202858B2
N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-3-(1-hexyl-piperidin-4-yl)-propionamide
A solution of 1-bromohexane (0.83 mg, 0.005 mmol) in DMF (0.05 ml) was added to a solution of N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-3-piperidin-4-yl-propionamide hydrochloride (Compound number 237) (2.57 mg, 0.005 mmol) in DMF (0.05 ml) and triethylamine (0.0021 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=597.6/599.6

reactant | 1-bromohexane | 0.005 mmol, 0.83 mg | BrCCCCCC | C6H13Br
reactant | N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-3-piperidin-4-yl-propionamide hydrochloride | 0.005 mmol, 2.57 mg | Cl.ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2CCC(CC2)CNC(CCC2CCNCC2)=O)C)C1
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.0021 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-3-(1-hexyl-piperidin-4-yl)-propionamide | ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2CCC(CC2)CNC(CCC2CCN(CC2)CCCCCC)=O)C)C1 | C33H49ClN6O2
